US04451677
Further n-butyraldehyde is supplied to nozzle 123 in second vaporiser 122 by way of line 124. Reference numeral 125 indicates a distribution tray. A hot vaporous mixture comprising unreacted hydrogen from first catalytic stage 116, product n-butanol, inerts, and a minor amount of by-products, e.g. n-butyl n-butyrate, also formed in first catalytic stage 116, exits vaporiser 122 overhead in line 126 at a temperature of 105° C. After passage through a heater 127, supplied with a suitable heating medium, e.g. steam, in line 128, the mixture passes on in line 129 at a temperature of 125° C. to second catalytic stage 130. The aldehyde is quantitatively hydrogenated, n-butanol being the major product, under adiabatic conditions. The temperature of the vaporous reaction mixture exiting second catalytic stage 130 in line 131 is 195° C. After heat recovery in heat exchanger 132 by indirect heat exchange with a cooling medium, e.g. boiler feed water, supplied in line 133, the reaction mixture, now at 150° C. passes on in line 109 to heat exchanger 108.

reactant | n-butyraldehyde | C(CCC)=O | C4H8O
reactant | hydrogen | [H][H] | H2
solvent | n-butanol | C(CCC)O | C4H10O
product | n-butyl n-butyrate | C(CCC)(=O)OCCCC | C8H16O2
